.SubCkt GR332QD72E104KW01 _net1 _net2
.param K01=1.0156e-07
.param M01=1.0000e+09
.param L02=3.1369e-10
.param M03=8.9837e-03
.param K04=3.6444e-05
.param M04=6.4641e+01
.param K05=4.9645e-05
.param M05=9.2143e+00
.param K06=4.5709e-05
.param M06=2.0152e+00
.param K07=4.1945e-05
.param M07=4.4103e-01
.param K08=2.0806e-05
.param M08=1.2045e-01
.param K09=3.1216e-05
.param M09=1.5421e-02
.param L10=8.8986e-11
.param M10=5.3020e-02
.param L11=3.1937e-11
.param M11=5.1932e-02
.param K12=2.3363e-07
.param L12=5.5259e-11
.param M12=7.7048e-02
.param K13=1.1519e-07
.param L13=3.9434e-11
.param M13=6.8117e-02
.param K14=1.0358e-11
.param L14=1.8184e-10
.param M14=1.5197e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GR332DD72E154KW01 _net1 _net2
.param K01=1.5128e-07
.param M01=6.6667e+08
.param L02=3.6751e-10
.param M03=6.9528e-03
.param K04=5.4990e-05
.param M04=4.5447e+01
.param K05=7.3539e-05
.param M05=6.8998e+00
.param K06=6.7414e-05
.param M06=1.5017e+00
.param K07=6.0566e-05
.param M07=3.2793e-01
.param K08=4.3556e-05
.param M08=7.0526e-02
.param K09=4.3289e-05
.param M09=1.6931e-02
.param L10=1.1498e-11
.param M10=8.5062e-02
.param L11=1.3962e-10
.param M11=7.8936e-02
.param K12=4.2551e-07
.param L12=5.8811e-11
.param M12=9.0202e-02
.param K13=1.8638e-07
.param L13=5.2348e-11
.param M13=7.2554e-02
.param K14=1.5053e-11
.param L14=1.2936e-10
.param M14=9.0531e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GR332DD72W683KW01 _net1 _net2
.param K01=6.8151e-08
.param M01=1.4706e+09
.param L02=3.5410e-10
.param M03=1.0648e-02
.param K04=2.4200e-05
.param M04=9.0482e+01
.param K05=3.3011e-05
.param M05=1.2511e+01
.param K06=3.0358e-05
.param M06=2.5972e+00
.param K07=2.8356e-05
.param M07=5.0360e-01
.param K08=2.3907e-05
.param M08=1.0263e-01
.param K09=1.8878e-05
.param M09=1.5722e-02
.param L10=7.2363e-11
.param M10=7.7739e-02
.param L11=2.6093e-11
.param M11=3.8748e-02
.param K12=1.9120e-07
.param L12=4.9263e-11
.param M12=9.3719e-02
.param K13=5.4152e-08
.param L13=6.1750e-11
.param M13=8.4178e-02
.param K14=4.7940e-10
.param L14=1.2779e-11
.param M14=2.3443e-01
.param K15=1.0001e-11
.param L15=2.3479e-10
.param M15=3.1422e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GR332DD72W104KW01 _net1 _net2
.param K01=1.0076e-07
.param M01=1.0000e+09
.param L02=3.5714e-10
.param M03=8.0455e-03
.param K04=3.3742e-05
.param M04=7.2610e+01
.param K05=4.7474e-05
.param M05=1.0280e+01
.param K06=4.3815e-05
.param M06=2.1829e+00
.param K07=4.1878e-05
.param M07=4.3149e-01
.param K08=3.6560e-05
.param M08=9.2733e-02
.param K09=2.6334e-05
.param M09=1.6435e-02
.param L10=1.5790e-10
.param M10=1.0852e-01
.param L11=1.2152e-11
.param M11=8.5814e-02
.param K12=1.5826e-07
.param L12=1.0819e-10
.param M12=1.3648e-01
.param K13=1.4244e-07
.param L13=4.8004e-11
.param M13=1.0150e-01
.param K14=3.5131e-11
.param L14=5.7571e-11
.param M14=2.8207e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GR332QD7LP104KW01 _net1 _net2
.param K01=1.0156e-07
.param M01=1.0000e+09
.param L02=3.1369e-10
.param M03=8.9837e-03
.param K04=3.6444e-05
.param M04=6.4641e+01
.param K05=4.9645e-05
.param M05=9.2143e+00
.param K06=4.5709e-05
.param M06=2.0152e+00
.param K07=4.1945e-05
.param M07=4.4103e-01
.param K08=2.0806e-05
.param M08=1.2045e-01
.param K09=3.1216e-05
.param M09=1.5421e-02
.param L10=8.8986e-11
.param M10=5.3020e-02
.param L11=3.1937e-11
.param M11=5.1932e-02
.param K12=2.3363e-07
.param L12=5.5259e-11
.param M12=7.7048e-02
.param K13=1.1519e-07
.param L13=3.9434e-11
.param M13=6.8117e-02
.param K14=1.0358e-11
.param L14=1.8184e-10
.param M14=1.5197e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GR332DD7LP154KW01 _net1 _net2
.param K01=1.5128e-07
.param M01=6.6667e+08
.param L02=3.6751e-10
.param M03=6.9528e-03
.param K04=5.4990e-05
.param M04=4.5447e+01
.param K05=7.3539e-05
.param M05=6.8998e+00
.param K06=6.7414e-05
.param M06=1.5017e+00
.param K07=6.0566e-05
.param M07=3.2793e-01
.param K08=4.3556e-05
.param M08=7.0526e-02
.param K09=4.3289e-05
.param M09=1.6931e-02
.param L10=1.1498e-11
.param M10=8.5062e-02
.param L11=1.3962e-10
.param M11=7.8936e-02
.param K12=4.2551e-07
.param L12=5.8811e-11
.param M12=9.0202e-02
.param K13=1.8638e-07
.param L13=5.2348e-11
.param M13=7.2554e-02
.param K14=1.5053e-11
.param L14=1.2936e-10
.param M14=9.0531e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GR332QD72J223KW01 _net1 _net2
.param K01=2.2104e-08
.param M01=4.5455e+09
.param L02=3.4021e-10
.param M03=2.1072e-02
.param K04=7.6760e-06
.param M04=2.5729e+02
.param K05=1.0792e-05
.param M05=3.0312e+01
.param K06=9.8963e-06
.param M06=6.3369e+00
.param K07=8.7749e-06
.param M07=1.2175e+00
.param K08=7.3270e-06
.param M08=2.2007e-01
.param K09=4.3958e-06
.param M09=5.5067e-02
.param L10=7.2532e-11
.param M10=1.2190e-01
.param L11=3.0622e-11
.param M11=3.9628e-02
.param K12=7.4425e-08
.param L12=3.0259e-11
.param M12=1.0226e-01
.param K13=2.2782e-08
.param L13=3.3269e-11
.param M13=9.4161e-02
.param K14=4.3474e-10
.param L14=1.5180e-11
.param M14=2.6061e-01
.param K15=1.1015e-11
.param L15=2.0702e-10
.param M15=2.3902e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GR332DD72J333KW01 _net1 _net2
.param K01=3.3632e-08
.param M01=3.0303e+09
.param L02=3.3772e-10
.param M03=1.5359e-02
.param K04=1.2055e-05
.param M04=1.8330e+02
.param K05=1.7227e-05
.param M05=2.2275e+01
.param K06=1.6430e-05
.param M06=4.7069e+00
.param K07=1.4568e-05
.param M07=9.7548e-01
.param K08=8.2660e-06
.param M08=2.3384e-01
.param K09=8.0796e-06
.param M09=3.6378e-02
.param L10=8.2939e-11
.param M10=9.6125e-02
.param L11=4.6664e-11
.param M11=4.1064e-02
.param K12=9.9168e-08
.param L12=4.5544e-11
.param M12=1.3372e-01
.param K13=3.7077e-08
.param L13=4.2952e-11
.param M13=1.0851e-01
.param K14=5.1710e-10
.param L14=1.2480e-11
.param M14=2.0089e-01
.param K15=1.0745e-11
.param L15=2.0685e-10
.param M15=2.3876e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GR332DD72J473KW01 _net1 _net2
.param K01=4.6602e-08
.param M01=2.1277e+09
.param L02=3.4819e-10
.param M03=1.1854e-02
.param K04=1.8974e-05
.param M04=1.1307e+02
.param K05=2.4797e-05
.param M05=1.5401e+01
.param K06=2.2953e-05
.param M06=3.1792e+00
.param K07=2.0544e-05
.param M07=6.4417e-01
.param K08=1.6431e-05
.param M08=1.2555e-01
.param K09=1.3498e-05
.param M09=1.7969e-02
.param L10=1.1833e-10
.param M10=1.2236e-01
.param L11=3.5195e-11
.param M11=7.6283e-02
.param K12=8.7206e-08
.param L12=8.8697e-11
.param M12=2.0481e-01
.param K13=5.3770e-08
.param L13=5.4960e-11
.param M13=1.3165e-01
.param K14=2.5258e-11
.param L14=6.4552e-11
.param M14=3.2085e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GR332DD7LQ683KW01 _net1 _net2
.param K01=6.8151e-08
.param M01=1.4706e+09
.param L02=3.5410e-10
.param M03=1.0648e-02
.param K04=2.4200e-05
.param M04=9.0482e+01
.param K05=3.3011e-05
.param M05=1.2511e+01
.param K06=3.0358e-05
.param M06=2.5972e+00
.param K07=2.8356e-05
.param M07=5.0360e-01
.param K08=2.3907e-05
.param M08=1.0263e-01
.param K09=1.8878e-05
.param M09=1.5722e-02
.param L10=7.2363e-11
.param M10=7.7739e-02
.param L11=2.6093e-11
.param M11=3.8748e-02
.param K12=1.9120e-07
.param L12=4.9263e-11
.param M12=9.3719e-02
.param K13=5.4152e-08
.param L13=6.1750e-11
.param M13=8.4178e-02
.param K14=4.7940e-10
.param L14=1.2779e-11
.param M14=2.3443e-01
.param K15=1.0001e-11
.param L15=2.3479e-10
.param M15=3.1422e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GR332DD7LQ104KW01 _net1 _net2
.param K01=1.0076e-07
.param M01=1.0000e+09
.param L02=3.5714e-10
.param M03=8.0455e-03
.param K04=3.3742e-05
.param M04=7.2610e+01
.param K05=4.7474e-05
.param M05=1.0280e+01
.param K06=4.3815e-05
.param M06=2.1829e+00
.param K07=4.1878e-05
.param M07=4.3149e-01
.param K08=3.6560e-05
.param M08=9.2733e-02
.param K09=2.6334e-05
.param M09=1.6435e-02
.param L10=1.5790e-10
.param M10=1.0852e-01
.param L11=1.2152e-11
.param M11=8.5814e-02
.param K12=1.5826e-07
.param L12=1.0819e-10
.param M12=1.3648e-01
.param K13=1.4244e-07
.param L13=4.8004e-11
.param M13=1.0150e-01
.param K14=3.5131e-11
.param L14=5.7571e-11
.param M14=2.8207e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 
